US09403798B2
(R)-4-[4-(4-Fluorophenyl)-5-hydroxy-5,6-dihydropyridin-1(2H)-yl]-6-methyl-1,3,5-triazin-2(1H)-one
To 1-(4-methoxybenzyl)-6-methyl-4-(methylthio)-1,3,5-triazin-2(1H)-one (1.39 g, 5.0 mmol) synthesized in Reference Synthesis Example 315, trifluoroacetic acid (10 mL) was added and the resultant mixture was stirred for 1 hour under reflux. After completion of the reaction, the reaction solution was concentrated under reduced pressure and 1,4-dioxane (10 mL), (R)-4-(4-fluorophenyl)-1,2,3,6-tetrahydropyridin-3-ol (966 mg, 5.00 mmol) synthesized in Reference Synthesis Example 133, and N,N-diisopropylethylamine (1.92 g, 10.0 mmol) were added to the concentrated solution, followed by refluxing the resultant mixture for 2 hours. After completion of the reaction, water was added to the reaction solution and extraction from the resultant mixture with ethyl acetate was performed. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate/methanol=10/1) to obtain the title compound (1.41 g, yield 94%).

reactant | 1-(4-methoxybenzyl)-6-methyl-4-(methylthio)-1,3,5-triazin-2(1H)-one | 5.0 mmol, 1.39 g | COC1=CC=C(CN2C(N=C(N=C2C)SC)=O)C=C1 | C13H15N3O2S
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | (R)-4-(4-fluorophenyl)-1,2,3,6-tetrahydropyridin-3-ol | 5.00 mmol, 966 mg | FC1=CC=C(C=C1)C=1[C@H](CNCC1)O | C11H12FNO
reactant | N,N-diisopropylethylamine | 10.0 mmol, 1.92 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (R)-4-[4-(4-Fluorophenyl)-5-hydroxy-5,6-dihydropyridin-1(2H)-yl]-6-methyl-1,3,5-triazin-2(1H)-one | 1.41 g, yield 94% | FC1=CC=C(C=C1)C1=CCN(C[C@@H]1O)C1=NC(NC(=N1)C)=O | C15H15FN4O2
